US07473694B2
Synthesis of (S)-(4-ethoxyphenyl)(5-piperidin-3-yl-6,7-dihydro-5H-1,4,5,8a-tetraaza-s-indacen-8-yl)amine (Compound No.: A-008)
To a methylene chloride (4 mL) solution containing tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate (0.693 mmol), trifluoroacetic acid (2 mL) was added with ice-cooling, and the mixture was allowed to warm to room temperature and stirred for 16 hr. After the reaction, the reaction solution was poured into aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off and the residue was purified with PTLC {10% (2 mol/L ammonia/methanol)-methylene chloride} to obtain the title compound (97.0 mg).

reactant | tert-butyl (S)-3-{8-[tert-butoxycarbonyl-(4-ethoxyphenyl)amino]-6,7-dihydro-1,4,5,8a-tetraaza-s-indacen-5-yl}piperidine-1-carboxylate | 0.693 mmol | C(C)(C)(C)OC(=O)N(C1=C2CCN(C2=NC2=CC=NN12)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC | C31H42N6O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-(4-ethoxyphenyl)(5-piperidin-3-yl-6,7-dihydro-5H-1,4,5,8a-tetraaza-s-indacen-8-yl)amine | 97.0 mg | C(C)OC1=CC=C(C=C1)NC1=C2CCN(C2=NC2=CC=NN12)[C@@H]1CNCCC1 | C21H26N6O
